US06403595B1
To a solution of methyl 3-(1-benzyloxycarbonylpiperidin-4-yl)-3-[4-(tert-butoxycarbonyl)-2-oxopiperazine-1-yl]propionate (4.78 g) in ethyl acetate (15 ml) was added 4N hydrochloric acid in ethyl acetate (15 ml), and the mixture was stirred at room temperature for 4 hours. The reaction solution was concentrated, and the residue was diluted with water, made basic with saturated sodium hydrogen carbonate solution and extracted with dichloromethane. The extract was washed with saturated brine, dried and concentrated to give pale yellow amorphous of methyl 3-(1-benzyloxycarbonylpiperidin-4-yl)-3-(2-oxopiperazine-1-yl)propionate (2.34 g).

reactant | methyl 3-(1-benzyloxycarbonylpiperidin-4-yl)-3-[4-(tert-butoxycarbonyl)-2-oxopiperazine-1-yl]propionate | 4.78 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CC(=O)OC)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C26H37N3O7
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(1-benzyloxycarbonylpiperidin-4-yl)-3-(2-oxopiperazine-1-yl)propionate | 2.34 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CC(=O)OC)N1C(CNCC1)=O | C21H29N3O5
